US06147114
(b) Dibenzyl 3(RS)-tert-butoxycarbonyl-2(R)-isobutylsuccinate
Benzyl tert-butyl malonate (24.9 g, 99.6 mmol) was dissolved in DMF (60 ml) and added portion wise with potassium tert-butoxide (13.4 g, 120 mmol) at 0° C. under stirring. The mixture was stirred at room temperature for 1 hour, then cooled to 0° C., and dropped in 1 hour with the solution of the Example 3-a compound (28.4 g, 99.6 mmol) dissolved in DMF (60 ml). After the reaction mixture was stirred at 5° C. overnight, it was added with AcOEt (2 l) and washed with a saturated aqueous solution of NaCl, 1N-HCl, a saturated aqueous solution of NaHCO3 and then the saturated aqueous solution of NaCl two times respectively. The organic layer was dried over anhydrous MgSO4, evaporated under reduced pressure and purified by column chromatography (silica gel; 750 g, elution with the mixed solvent; n-hexane: AcOEt=20:1), giving the title compound (40.0 g, 89%) of a colorless oil.

reactant | Benzyl tert-butyl malonate | 99.6 mmol, 24.9 g | C(CC(=O)OC(C)(C)C)(=O)OCC1=CC=CC=C1 | C14H18O4
reactant | potassium tert-butoxide | 120 mmol, 13.4 g | CC(C)([O-])C.[K+]
reactant | AcOEt | 2 l | CCOC(=O)C | C4H8O2
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
product | Dibenzyl 3(RS)-tert-butoxycarbonyl-2(R)-isobutylsuccinate | 40.0 g, 89% | C(C)(C)(C)OC(=O)C([C@H](C(=O)OCC1=CC=CC=C1)CC(C)C)C(=O)OCC1=CC=CC=C1 | C27H34O6
